US07745641B2
In a similar manner to Step 1 of Example 233, 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0322 g, 0.0698 mmol) was dissolved in acetonitrile (0.650 mL), and the solution was treated with triethylamine (0.0580 mL, 0.419 mmol) and 4-ethylbenzene-1-sulfonyl chloride (0.0430 g, 0.209 mmol) to obtain 4-(4-ethylbenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0224 g, yield 51%).

reactant | 4-hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0698 mmol, 0.0322 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | triethylamine | 0.419 mmol, 0.0580 mL | C(C)N(CC)CC | C6H15N
reactant | 4-ethylbenzene-1-sulfonyl chloride | 0.209 mmol, 0.0430 g | C(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H9ClO2S
solvent | acetonitrile | 0.650 mL | C(C)#N | C2H3N
product | 4-(4-ethylbenzenesulfonyloxy)-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0224 g, yield 51% | C(C)C1=CC=C(C=C1)S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C35H39N3O6S
